US05260423
Preparation of 7-aminomethylbenzo-1,2,3-thiadiazole (Comp. No. 1.110)
In a hydrogenation vessel, a solution of 14.5 g of 7-cyanobenzo-1,2,3-thiadiazole in 150 ml of methanol is treated with 4.4 g of Raney nickel and with 15 g of liquid nitrogen. Hydrogen is subsequently injected, the vessel is heated, and the mixture is hydrogenated at 60° C. and constant hydrogen pressure of 107Pa until hydrogen is no longer taken up. The mixture is then cooled, the catalyst is removed by filtration, the filtrate is evaporated and chromatographed on silica gel (hexane/ethyl acetate 2:1), resulting in the title compound of m.p. 136°-139° C.).

reactant | 7-cyanobenzo-1,2,3-thiadiazole | 14.5 g | C(#N)C1=CC=CC=2N=NSC21 | C7H3N3S
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Raney nickel | 4.4 g | [Ni] | Ni
product | 7-aminomethylbenzo-1,2,3-thiadiazole | NCC1=CC=CC=2N=NSC21 | C7H7N3S
